US06348478B1
3-(3-cyanophenyl)-5-(3-(2-(2,2,2-trifluoroacetylamino)ethyl)phenoxymethyl) benzoic acid methyl ester
110 mg of triphenylphosphine was dissolved in 5 ml of N-methylphosphine in the atmosphere of nitrogen, and 178 μl of DEAD was dropwisely dropped on the solution at 0° C. The obtained solution was mixed with 61 mg of (2,2,2-trifluoro-N-(2-(3-hydroxyphenyl)ethyl)ethanamide and 70 mg of 3-(3-cyanophenyl)-5-(hydroxymethyl)benzoic acid methyl ester, stirred at room temperature overnight and then poured on an aqueous solution of ammonium chloride to stop the reaction. The solution was extracted with ethyl acetate, and the obtained organic layer was dried. The solvent was distilled away, and the residue was purified by silica gel chromatography to obtain 79 mg (62.5%) of the title compound. Colorless solid.

reactant | triphenylphosphine | 110 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2,2-trifluoro-N-(2-(3-hydroxyphenyl)ethyl)ethanamide | FC(C(=O)NCCC1=CC(=CC=C1)O)(F)F | C10H10F3NO2
reactant | 3-(3-cyanophenyl)-5-(hydroxymethyl)benzoic acid methyl ester | 70 mg | COC(C1=CC(=CC(=C1)CO)C1=CC(=CC=C1)C#N)=O | C16H13NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DEAD | 178 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 3-(3-cyanophenyl)-5-(3-(2-(2,2,2-trifluoroacetylamino)ethyl)phenoxymethyl) benzoic acid methyl ester | 79 mg, 62.5% | COC(C1=CC(=CC(=C1)COC1=CC(=CC=C1)CCNC(C(F)(F)F)=O)C1=CC(=CC=C1)C#N)=O | C26H21F3N2O4
